US07550461B2
Synthesis of N-[2-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenylcarbamoyl)-benzo[b]thiophen-7-yl]-5-(N,N-dimethylcarbamoyl)-nicotinamide
A suspension of pyridine-3,5-dicarboxylic acid (43.5 mg, 0.26 mmol) in 2.5 mL of SOCl2 was refluxed for 2.5 h to give a light yellow solution. The excess SOCl2 was removed by distillation and the resulting solid was dissolved in 2 mL of dry THF. Triethylamine (0.12 mL, 0.86 mmol) and a solution of 7-aminobenzo[b]thiophene-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide (39 mg, 0.087 mmol) in 2 mL of THF was added and the reaction mixture was stirred 12 h. A solution of dimethylamine (2.0 M in THF, 1 mL, 2 mmol) was added and the reaction mixture was stirred for additional 5 h. The reaction mixture was then extracted with EtOAc and purified by reverse phase HPLC on a C18 column eluting with an acetonitrile-water gradient to provide 12 mg (24%) of the title compound.

reactant | pyridine-3,5-dicarboxylic acid | 0.26 mmol, 43.5 mg | N1=CC(=CC(=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | Triethylamine | 0.86 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 7-aminobenzo[b]thiophene-2-carboxylic acid (5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-amide | 0.087 mmol, 39 mg | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C1=CC2=C(S1)C(=CC=C2)N)OC)NS(=O)(=O)C | C21H25N3O4S2
reactant | dimethylamine | 2 mmol, 2.0 M, 1 mL | CNC | C2H7N
solvent | SOCl2 | 2.5 mL | O=S(Cl)Cl | Cl2OS
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-[2-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenylcarbamoyl)-benzo[b]thiophen-7-yl]-5-(N,N-dimethylcarbamoyl)-nicotinamide | 12 mg, 24% | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C1=CC2=C(S1)C(=CC=C2)NC(C2=CN=CC(=C2)C(N(C)C)=O)=O)OC)NS(=O)(=O)C | C30H33N5O6S2
